US07981900B2
1-(5-Methylpyridin-3-yl)butan-4-amine
To a solution of 1-(5-methylpyridin-3-yl)butan-1-one (800 mg, 4.9 mmol) and ammonium formate (1.55 g, 24.5 mmol) in methanol (5 mL) under nitrogen was added dichloro(pentamethylcyclopentadienyl)rhodium (III) dimer (45 mg, 0.074 mmol). The solution was heated at reflux for 8 h. after which time the solution was cooled to room temperature and acidified to pH ˜2 with 2M HCl. The mixture was washed with dichloromethane (3×15 mL) and the aqueous phase then basified to pH ˜12 by addition of solid KOH. The aqueous phase was extracted with dichloromethane (3×15 mL) and the combined organic layers washed with brine, dried (Na2SO4) and concentrated to give a pure product (620 mg, 77%).

reactant | 1-(5-methylpyridin-3-yl)butan-1-one | 4.9 mmol, 800 mg | CC=1C=C(C=NC1)C(CCC)=O | C10H13NO
reactant | ammonium formate | 24.5 mmol, 1.55 g | C(=O)[O-].[NH4+]
reactant | HCl | 2M | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
catalyst | dichloro(pentamethylcyclopentadienyl)rhodium (III) dimer | 0.074 mmol, 45 mg | C[C]1[C]([C]([C]([C]1C)C)C)C.C[C]1[C]([C]([C]([C]1C)C)C)C.Cl[Rh]Cl.Cl[Rh]Cl
product | 1-(5-Methylpyridin-3-yl)butan-4-amine | 620 mg, 77% | CC=1C=C(C=NC1)CCCCN | C10H16N2
